US05704949
The Bu'Lock et al article discloses oxidation often 2-3', 4'-dihydroxyphenylethyl amine derivatives, including dopa. For methyl dopa (described at page 2251), a 4.735×10-2M concentration of methyl dopa was reacted with a 0.1974M concentration of potassium ferricyanide, in the presence of sodium bicarbonate buffer at a 0.238M concentration. After 10 minutes 8 cc of a 20% zinc acetate solution was added to effect rearrangement of the dopachrome to the dihydroxymethylindole. The article indicates that a similar procedure was used for dopa. The reported 5,6-dihydroxyindole yield of one experiment, after purification, was 30%. However, the Bu'Lock article states that this yield could not be repeated. According to the article the solid light-brown residue obtained in subsequent experiments appeared to be polymeric. At page 2249 Bu'Lock et al hypothesized that their inability to repeat the sole successful experiment was attributable to the diluteness of the reaction medium. This later article by Bu'Lock et al supplements their prior article in Nature, 166:1036-7 (1950), which reported "an excellent yield" of 5,6-dihydroxyindole, and essentially negates their original findings.

reactant | dopa | O=C(O)[C@@H](N)CC1=CC=C(O)C(O)=C1 | C9H11NO4
reactant | methyl dopa | CN[C@H](C(=O)O)CC1=CC=C(O)C(O)=C1 | C10H13NO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | dopachrome | C1C(NC2=CC(=O)C(=O)C=C21)C(=O)O | C9H7NO4
reactant | dihydroxymethylindole | OC(O)C=1NC2=CC=CC=C2C1 | C9H9NO2
catalyst | potassium ferricyanide | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
catalyst | zinc acetate | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
product | 5,6-dihydroxyindole | OC=1C=C2C=CNC2=CC1O | C8H7NO2
